US08957203B2
Step 3: Preparation of 4-chloro-6-methoxyisoquinolin-1(2H)-one
To a solution of 6-methoxyisoquinolin-1(2H)-one (2.5 g, 14.27 mmol) in acetonitrile (10 ml) was added NCS (2.54 g, 14.27 mmol) at 80° C. for overnight. The reaction mass was cooled to room temperature and the precipitated solid was filtered to get crude compound (2 g, 55.2%). The crude compound was taken to the next step without further purification. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.41 (s, 1H), 8.17-8.15 (d, J=8 Hz, 1H), 7.53 (s, 1H), 7.19-7.11 (m, 2H), 3.93 (s, 3H); MS: MS m/z 210.02 (M++1).

reactant | 6-methoxyisoquinolin-1(2H)-one | 14.27 mmol, 2.5 g | COC=1C=C2C=CNC(C2=CC1)=O | C10H9NO2
reactant | NCS | 14.27 mmol, 2.54 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-chloro-6-methoxyisoquinolin-1(2H)-one | 2 g, 55.2% | ClC1=CNC(C2=CC=C(C=C12)OC)=O | C10H8ClNO2
